US07407955B2
8-hydroxymethyl-quinolin-5-ol
3.40 g of quinolin-5-ol is combined with 8 ml of conc. hydrochloric acid and 8 ml of 37% formalin solution while cooling with an ice bath. Then hydrogen chloride gas is piped through the reaction mixture for about two hours, while the temperature slowly rises. The reaction mixture is stirred first overnight while cooling with an ice bath, then at ambient temperature and then evaporated down in vacuo. The flask residue is taken up in water, covered with a layer of diethyl ether and adjusted to pH 10 while cooling with an ice bath and vigorously stirring with dilute ammonia solution. After another two hours' vigorous stirring at ambient temperature the organic phase is separated off and the aqueous phase is extracted with diethyl ether. The combined organic phases are washed with water and saturated sodium chloride solution, dried over magnesium sulphate and evaporated down. The flask residue is chromatographed through a silica gel column with methylene chloride/methanol (20:1) as eluant.

reactant | quinolin-5-ol | 3.40 g | N1=CC=CC=2C(=CC=CC12)O | C9H7NO
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | formalin | 8 ml | C=O | CH2O
product | 8-hydroxymethyl-quinolin-5-ol | OCC1=CC=C(C=2C=CC=NC12)O | C10H9NO2
